US08357706B2
A stirring solution of 5-(4,5-dihydrooxazol-2-yl)-2-isopropoxybenzonitrile INT-31 (420 mg, 1.82 mmol), N-bromosuccinamide (990 mg, 5.56 mmol) and azoisobutyronitrile (14.9 mg, 0.09 mmol) in carbon tetrachloride (20 mL) was heated at 80° C. under N2 for 18 h. The reaction mixture was cooled to room temperature and the solids were removed by filtration. The filtrate was washed with sodium thiosulfate (20 mL) and brine (20 mL), and dried over MgSO4. The product was purified by chromatography (EA/hexanes) to afford 300 mg (55%) of 5-(5-bromooxazol-2-yl)-2-isopropoxybenzonitrile INT-32 as a yellow solid. LCMS-ESI (m/z) calculated for C13H11BrN2O2: 307.1; found 309.0 [M+2]+, tR=3.79 min. 1H NMR (400 MHz, CDCl3) δ 8.19-7.93 (m, 2H), 7.08-6.85 (m, 2H), 4.81-4.47 (m, 1H), 1.38 (dd, J=6.6, 3.0 Hz, 6H).

reactant | 5-(4,5-dihydrooxazol-2-yl)-2-isopropoxybenzonitrile | O1C(=NCC1)C=1C=CC(=C(C#N)C1)OC(C)C | C13H14N2O2
reactant | N-bromosuccinamide | 5.56 mmol, 990 mg | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(5-bromooxazol-2-yl)-2-isopropoxybenzonitrile | 300 mg, 55% | BrC1=CN=C(O1)C=1C=CC(=C(C#N)C1)OC(C)C | C13H11BrN2O2
